US04207341
6.2 g 2-[4-(2-Aminoethyl)-phenyl]-butyric acid hydrochloride are suspended in 100 ml acetone. After the addition of 50 ml 2 N aqueous sodium hydroxide solution, a solution of 4.8 g 5-chloro-2-methoxybenzoyl chloride in 50 ml acetone is added dropwise thereto at ambient temperature and the reaction mixture then stirred for 2 hours at 50° C. After cooling, the reaction mixture is evaporated in a vacuum and the aqueous solution acidified with dilute hydrochloric acid. The 2-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-butyric acid obtained solidifies upon triturating with diisopropyl ether and is recrystallized from diisopropyl ether. The yield is 3.2 g (42.5% of theory); m.p. 120°-122° C.

reactant | 2-[4-(2-Aminoethyl)-phenyl]-butyric acid hydrochloride | 6.2 g | Cl.NCCC1=CC=C(C=C1)C(C(=O)O)CC
reactant | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
reactant | 5-chloro-2-methoxybenzoyl chloride | 4.8 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-{4-[2-(5-chloro-2-methoxybenzamido)-ethyl]-phenyl}-butyric acid | ClC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)C(C(=O)O)CC)C1)OC | C20H22ClNO4
